US07465730B2
Using the general procedure outlined in EXAMPLE 1, 1-(3-chloro-4-hydroxyphenyl)-2,5-dimethylpyrrole (1.11 g, 5 mmol) and an excess of bromoethane (1.0 mL) reacted to give 1-(3-chloro-4-ethoxyphenyl)-2,5-dimethylpyrrole as a tan solid: 1H NMR (CDCl3, 500 MHz) δ 7.27 (d, 1H), 7.08 (dd, 1H), 6.99 (dd, 1H), 5.89 (s, 2H), 4.18 (q, 2H), 2.04 (s, 6H), 1.53 (t, 3H); MS (ESI) 250 (M+H)+.

reactant | 1-(3-chloro-4-hydroxyphenyl)-2,5-dimethylpyrrole | 5 mmol, 1.11 g | ClC=1C=C(C=CC1O)N1C(=CC=C1C)C | C12H12ClNO
reactant | bromoethane | 1.0 mL | BrCC | C2H5Br
product | 1-(3-chloro-4-ethoxyphenyl)-2,5-dimethylpyrrole | ClC=1C=C(C=CC1OCC)N1C(=CC=C1C)C | C14H16ClNO
